US07709645B2
320 mg (0.57 mmol) of 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester was dissolved in 20 mL of hot ethanol. 5 mL (14 mmol) of 7 M aqueous sodium hydroxide was added and the mixture was left at ambient temperature for 15 h. The resulting solution was acidified to pH 1 by addition of concentrated aqueous hydrochloric acid. The resulting precipitate was filtered off and dried by suction to afford 232 mg (0.59 mmol, 103%) of 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid as a yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 12.08 (s, 1H), 8.45 (d, 1H), 8.21 (d, 1H), 8.11 (d, 1H), 8.03 (d, 1H), 7.77 (d, 1H), 7.62 (dd, 1H), 7.31 (t, 1H), 7.15 (d, 1H), 7.07 (t, 1H), 3.83 (s, 3H). MS: m/z 395.0 (M+H+).

reactant | 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester | 0.57 mmol, 320 mg | COC(C1=C(C(=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)Cl)O)=O | C29H23ClN2O6S
reactant | sodium hydroxide | 14 mmol, 7 M, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.59 mmol, 232 mg, 103% | ClC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)O | C21H15ClN2O4
